US06958327B1
5.1 3-Benzyloxy-7β-hydroxy-estra-1,3,5(10)-trien-17-one
12.83 g (75 mmol) of benzylbromide is added to a suspension of 20 g (67.74 mmol) of 3,7β-dihydroxy-estra-1,3,5(10)-trien-17-one, 3.55 g (148.23 mmol) of lithium hydroxide in 700 ml of dry dimethylformamide, and it is stirred under an argon atmosphere for 30 minutes at 100° C. For working-up, the reaction solution is poured into tartaric-acid ice water, the precipitated product is suctioned off and dried in air. The crude product is taken up in dichloromethane, the organic phase is washed with water and dried on sodium sulfate. After the solvent is drawn off in a vacuum, it is chromatographed on silica gel (dichloromethane-ethyl acetate, gradient of up to 3:2), yield 22.81 g (87%).

reactant | benzylbromide | 75 mmol, 12.83 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3,7β-dihydroxy-estra-1,3,5(10)-trien-17-one | 67.74 mmol, 20 g | OC1=CC=2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C18H22O3
reactant | lithium hydroxide | 148.23 mmol, 3.55 g | [OH-].[Li+]
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-7β-hydroxy-estra-1,3,5(10)-trien-17-one | C(C1=CC=CC=C1)OC1=CC=2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C25H28O3
